US08349880B2
Step M (5): A mixture of 4-chloro-1H-imidazole (102 mg, 1.00 mmol), 1,2-difluoro-3-methoxy-5-nitrobenzene (200 mg, 1.00 mmol), and cesium carbonate (325 mg, 1 mmol) in acetonitrile (6 mL) was heated at 80° C. for 12 h. The reaction mixture was quenched with 1 N HCl. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (20% EtOAc/hexane) to afford 4-chloro-1-(2-fluoro-6-methoxy-4-nitrophenyl)-1H-imidazole (60 mg, 22% yield).

reactant | 4-chloro-1H-imidazole | 1.00 mmol, 102 mg | ClC=1N=CNC1 | C3H3ClN2
reactant | 1,2-difluoro-3-methoxy-5-nitrobenzene | 1.00 mmol, 200 mg | FC1=C(C(=CC(=C1)[N+](=O)[O-])OC)F | C7H5F2NO3
reactant | cesium carbonate | 1 mmol, 325 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-chloro-1-(2-fluoro-6-methoxy-4-nitrophenyl)-1H-imidazole | 60 mg, 22% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1OC)[N+](=O)[O-])F | C10H7ClFN3O3
